US07030139B2
51AA: 1-(cyclopropylmethyl)-2-[(4-ethoxyphenyl)methyl]-N-methyl-1H-benzimidazol-5-amine
To a suspension of methyl [1-(cyclopropylmethyl)-2-[(4-ethoxyphenyl)methyl]-1H-benzimidazol-5-yl]carbamate (0.781 g, 2.06 mmol) in THF was added LAH (0.32 g, 8.43 mmol) at 0° C. The mixture was stirred for 1 h at 0° C. and 2.5 h at reflux, cooled town to −78° C., and quenched with MeOH (5 mL) and H2O (5 mL). After adding Na2SO4 (10 g), the resulting mixture was stirred for 1 h at room temperature. After filtration and concentration, the residue was purified by MPLC using EtOAc on silica gel to give 641.7 mg (93%) of the title compound as an off-white solid. 1HNMR (CDCl3): δ 0.22 (m, 2H), 0.48 (m, 2H), 1.26 (m, 1H), 1.38 (t, J=7.0 Hz, 3H), 2.89 (s, 3H), 3.83 (d, J=6.6 Hz, 2H), 3.98 (q, J=7.0 Hz, 2H), 4.23 (s, 2H), 6.64 (dd, J=8.6, 2.2 Hz, 1H), 6.80 (d, J=8.6 Hz, 2H), 6.99 (d, J=2.1 Hz, 1H), 7.13 (m, 3H). MS (ESI) (M+H)+=336.42.

reactant | methyl [1-(cyclopropylmethyl)-2-[(4-ethoxyphenyl)methyl]-1H-benzimidazol-5-yl]carbamate | 2.06 mmol, 0.781 g | C1(CC1)CN1C(=NC2=C1C=CC(=C2)NC(OC)=O)CC2=CC=C(C=C2)OCC | C22H25N3O3
reactant | LAH | 8.43 mmol, 0.32 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | C1CCOC1 | C4H8O
product | 1-(cyclopropylmethyl)-2-[(4-ethoxyphenyl)methyl]-N-methyl-1H-benzimidazol-5-amine | 641.7 mg, 93% | C1(CC1)CN1C(=NC2=C1C=CC(=C2)NC)CC2=CC=C(C=C2)OCC | C21H25N3O
